US07754742B2
4-Aminomethyl-2-fluoro-benzoic acid methyl ester
Add a slurry of Raney nickel in ethanol (1.2 g, 1.2 ml) to 4-cyano-2-fluoro-benzoic acid methyl ester (5.8 g, 30.0 mmol) in 2N ammonia in methanol (580 mL). Purge with nitrogen gas (3×), purge with hydrogen gas (3×), and pressurize with hydrogen gas to 419 KPa. Heat the reaction at 40° C. for 18 hrs. Allow to cool to room temperature and filter the reaction mixture. Concentrate the filtrate to the crude title compound (6.9 g, 99%). MS (m/z): 184 (M+1).

reactant | 4-cyano-2-fluoro-benzoic acid methyl ester | 30.0 mmol, 5.8 g | COC(C1=C(C=C(C=C1)C#N)F)=O | C9H6FNO2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 1.2 ml, 1.2 g | C(C)O | C2H6O
solvent | ammonia | 2N | N | H3N
solvent | methanol | 580 mL | CO | CH4O
product | 4-Aminomethyl-2-fluoro-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)CN)F)=O | C9H10FNO2
